### PR TITLE
[Merged by Bors] - feat: synchronize with mathlib3 #18080

### PR DESCRIPTION
**Pull request by alreadydone**
matches https://github.com/leanprover-community/mathlib/pull/18080

### CODE REVIEW

File: Mathlib/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -733,3 +733,28 @@ theorem div_eq_div_iff_div_eq_div : a / b = c / d ↔ a / c = b / d := by
...
+  have h : ∀ b c, r b c → f a c = f a b * f b c := by
+    intros b c hbc
+    obtain hab | hba := t.total a b
+    · exact hmul hab hbc
+    obtain hac | hca := t.total a c
+    · rw [hmul hba hac, ← mul_assoc, hswap a b, one_mul]
+    · rw [← one_mul (f a c), ← hswap a b, hmul hbc hca, mul_assoc, mul_assoc, hswap c a, mul_one]
+  obtain hbc | hcb := t.total b c
+  · exact h b c hbc
+  · rw [h c b hcb, mul_assoc, hswap c b, mul_one]
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/Basic.lean:757]: To reviewer:

I can't quite translate the [Lean 3 proof](https://github.com/leanprover-community/mathlib/pull/18080/files#diff-8626c6c73cd16bf773b579c3fa072a3cc334e223013d4cdc520288ac34403d33R662-R677) faithfully, so the order is a bit different from original. If you are able to make the `have := _` trick in Lean 3 work in Lean 4, please let me know! I'm also setting up mathport oneshot.

By the way, is there a counterpart to `#where` in Lean 4?

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by alreadydone** [comment]
@jcommelin Wow, not expecting it to be merged so fast; the mathlib3 PR isn't approved yet. And I have to update the SHA after the mathlib3 PR is merged ...
